US04414390
To a solution of 6-acetyl-8-methoxy-3,4-dihydrocarbostyril (3.1 g) in chloroform (30 ml) was added dropwise a solution of bromine (2.26 g) in chloroform (20 ml) with stirring at room temperature. After completion of addition, the mixture was stirred for 30 minutes at room temperature, thereafter, the reaction mixture was concentrated and the residue was recrystallized from methanol to give 3.2 g of 6-(α-bromoacetyl)-8-methoxy-3,4-dihydrocarbostyril.

reactant | 6-acetyl-8-methoxy-3,4-dihydrocarbostyril | 3.1 g | C(C)(=O)C=1C=C2CCC(NC2=C(C1)OC)=O | C12H13NO3
reactant | bromine | 2.26 g | BrBr | Br2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(α-bromoacetyl)-8-methoxy-3,4-dihydrocarbostyril | 3.2 g | BrCC(=O)C=1C=C2CCC(NC2=C(C1)OC)=O | C12H12BrNO3
